US03941756
290 g of carrier-bound penicillinacylase according to Example 4, having an enzymatic activity of 2,803 U (NIPAB test) and 138 g of potassium penicillin V are added to 2,000 ml of water and stirred for 9 hours at 38°C. The pH value is kept constant at 7.8 by continuous addition of triethylamine. The mixture is worked up as described in Example 1. Yields of 6-APA 64.3 g (86.1% of theory); purity 97.4%.

reactant | NIPAB | C1=CC=C(C=C1)CC(=O)NC2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O | C15H12N2O5
reactant | potassium penicillin V | 138 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)COC3=CC=CC=C3)C(=O)[O-])C.[K+]
reactant | water | 2,000 ml | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-APA | 64.3 g, 86.1% | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
